* Subcircuit mc1514_sub
.subckt mc1514_sub net-_q8-pad1_ net-_u1-pad2_ net-_q2-pad1_ unconnected-_u1-pad4_ net-_q13-pad2_ net-_q16-pad2_ net-_r2-pad1_ net-_q10-pad1_ net-_u1-pad9_ net-_q15-pad1_ net-_q10-pad2_ net-_q4-pad2_ net-_q1-pad2_ net-_r14-pad1_ 
.title kicad schematic
.include D.lib
.include NPN.lib
r14 net-_r14-pad1_ net-_d4-pad2_ 100
d4 net-_d4-pad1_ net-_d4-pad2_ 1N4148
q13 net-_q12-pad2_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
q16 net-_q11-pad2_ net-_q16-pad2_ net-_q13-pad3_ Q2N2222
q14 net-_q13-pad3_ net-_d4-pad1_ net-_q14-pad3_ Q2N2222
r16 net-_r14-pad1_ net-_q14-pad3_ 200
* u7 net-_q10-pad2_ net-_q11-pad3_ zener
r12 net-_q10-pad3_ net-_d4-pad1_ 1k
r6 net-_q8-pad3_ net-_d1-pad1_ 1k
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q8 net-_q8-pad1_ net-_q10-pad2_ net-_q8-pad3_ Q2N2222
* u2 net-_q10-pad2_ net-_q5-pad3_ zener
r5 net-_d2-pad1_ net-_q2-pad1_ 3.7k
r7 net-_d2-pad2_ net-_q2-pad1_ 2.8k
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
r1 net-_q1-pad1_ net-_q2-pad3_ 740
r3 net-_q4-pad1_ net-_q2-pad3_ 740
q5 net-_d2-pad1_ net-_q4-pad1_ net-_q5-pad3_ Q2N2222
q6 net-_q2-pad2_ net-_q1-pad1_ net-_q5-pad3_ Q2N2222
r8 net-_q2-pad2_ net-_d2-pad2_ 1.1k
r17 net-_q11-pad2_ net-_q15-pad3_ 740
r13 net-_d3-pad1_ net-_q15-pad1_ 3.7k
q15 net-_q15-pad1_ net-_q11-pad1_ net-_q15-pad3_ Q2N2222
r15 net-_q12-pad2_ net-_q15-pad3_ 740
r9 net-_q15-pad1_ net-_q2-pad1_ 47
* u4 net-_q8-pad1_ net-_q7-pad3_ zener
* u5 net-_q10-pad1_ net-_q9-pad3_ zener
q9 net-_q15-pad1_ net-_d3-pad1_ net-_q9-pad3_ Q2N2222
q7 net-_q2-pad1_ net-_d2-pad1_ net-_q7-pad3_ Q2N2222
* u3 net-_u1-pad2_ net-_d2-pad1_ zener
* u6 net-_u1-pad9_ net-_d3-pad1_ zener
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
q12 net-_d3-pad1_ net-_q12-pad2_ net-_q11-pad3_ Q2N2222
r10 net-_d3-pad2_ net-_q15-pad1_ 2.8k
r11 net-_q11-pad1_ net-_d3-pad2_ 1.1k
r4 net-_r2-pad1_ net-_d1-pad2_ 100
q3 net-_q1-pad3_ net-_d1-pad1_ net-_q3-pad3_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r2 net-_r2-pad1_ net-_q3-pad3_ 200
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q1-pad3_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
a1 net-_q10-pad2_ net-_q11-pad3_ u7
a2 net-_q10-pad2_ net-_q5-pad3_ u2
a3 net-_q8-pad1_ net-_q7-pad3_ u4
a4 net-_q10-pad1_ net-_q9-pad3_ u5
a5 net-_u1-pad2_ net-_d2-pad1_ u3
a6 net-_u1-pad9_ net-_d3-pad1_ u6
* Schematic Name:                             zener, Ngspice Name: zener
.model u7 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, Ngspice Name: zener
.model u2 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, Ngspice Name: zener
.model u4 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, Ngspice Name: zener
.model u5 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, Ngspice Name: zener
.model u3 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, Ngspice Name: zener
.model u6 zener(v_breakdown=6.2 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends mc1514_sub