.title kicad schematic

r3 gnd net-_r3-pad2_ 1g
* u1 net-_gm1-pad3_ net-_gm1-pad4_ net-_e1-pad2_ net-_r3-pad2_ net-_r4-pad2_ port
r2 gnd net-_c1-pad1_ 100k
r5 net-_e1-pad2_ net-_e1-pad1_ 50
r4 gnd net-_r4-pad2_ 1g
e1 net-_e1-pad1_ net-_e1-pad2_ net-_c1-pad1_ gnd 1
c1 net-_c1-pad1_ gnd 690pf
gm1 net-_c1-pad1_ net-_c1-pad1_ net-_gm1-pad3_ net-_gm1-pad4_ 1
r1 net-_gm1-pad4_ net-_gm1-pad3_ 100meg
.tran 1e-09 1e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
