* Subcircuit opa656
.subckt opa656 net-_gm1-pad3_ net-_gm1-pad4_ net-_e1-pad2_ net-_r3-pad2_ net-_r4-pad2_ 
.title kicad schematic
r3 gnd net-_r3-pad2_ 1g
r2 gnd net-_c1-pad1_ 100k
r5 net-_e1-pad2_ net-_e1-pad1_ 50
r4 gnd net-_r4-pad2_ 1g
e1 net-_e1-pad1_ net-_e1-pad2_ net-_c1-pad1_ gnd 1
c1 net-_c1-pad1_ gnd 690pf
gm1 net-_c1-pad1_ net-_c1-pad1_ net-_gm1-pad3_ net-_gm1-pad4_ 1
r1 net-_gm1-pad4_ net-_gm1-pad3_ 100meg
* Control Statements

.ends opa656