.title KiCad schematic
.include "C:\FOSSEE\eSim\library\SubcircuitLibrary\LM321\LM321.sub"
C3 Net-_C3-Pad1_ Net-_C3-Pad2_ 100p
U1 Net-_U1-Pad2_ Net-_C1-Pad2_ Net-_R1-Pad2_ Net-_C4-Pad1_ Net-_C3-Pad2_ PORT
R4 Net-_R4-Pad1_ Net-_C3-Pad1_ 7k
U2 Net-_C1-Pad2_ Net-_R4-Pad1_ zener
R1 Net-_C1-Pad1_ Net-_R1-Pad2_ 95k
C1 Net-_C1-Pad1_ Net-_C1-Pad2_ 100p
R2 Net-_C1-Pad2_ Net-_C1-Pad1_ 14k
C2 Net-_C1-Pad1_ Net-_C2-Pad2_ 100p
R3 Net-_C1-Pad1_ Net-_C2-Pad2_ 1k
C4 Net-_C4-Pad1_ Net-_C2-Pad2_ 100p
R5 Net-_C2-Pad2_ Net-_C4-Pad1_ 8k
R6 Net-_R4-Pad1_ Net-_C4-Pad1_ 4k
X1 Net-_C3-Pad1_ Net-_C2-Pad2_ Net-_U1-Pad2_ Net-_C4-Pad1_ Net-_C1-Pad2_ LM321
.end
