* Subcircuit ref_102d
.subckt ref_102d net-_u1-pad2_ net-_c1-pad2_ net-_r1-pad2_ net-_c4-pad1_ net-_c3-pad2_ 
.title kicad schematic
.include LM321.sub
c3 net-_c3-pad1_ net-_c3-pad2_ 100p
r4 net-_r4-pad1_ net-_c3-pad1_ 7k
* u2 net-_c1-pad2_ net-_r4-pad1_ zener
r1 net-_c1-pad1_ net-_r1-pad2_ 95k
c1 net-_c1-pad1_ net-_c1-pad2_ 100p
r2 net-_c1-pad2_ net-_c1-pad1_ 14k
c2 net-_c1-pad1_ net-_c2-pad2_ 100p
r3 net-_c1-pad1_ net-_c2-pad2_ 1k
c4 net-_c4-pad1_ net-_c2-pad2_ 100p
r5 net-_c2-pad2_ net-_c4-pad1_ 8k
r6 net-_r4-pad1_ net-_c4-pad1_ 4k
x1 net-_c3-pad1_ net-_c2-pad2_ net-_u1-pad2_ net-_c4-pad1_ net-_c1-pad2_ LM321
a1 net-_c1-pad2_ net-_r4-pad1_ u2
* Schematic Name:                             zener, Ngspice Name: zener
.model u2 zener(v_breakdown=6.3 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=TRUE )
* Control Statements

.ends ref_102d